US05382664
To a mixture of indole-2-carboxylic acid (0.19 g), N-hydroxybenzotriazole (0.16 g) and N,N'-dicyclohexylcarbodiimide (0.24 g) in chloroform (10 ml) was added a mixture (0.43 g) of (3RS)-1,3-dihydro-5-phenyl-3-amino-1-{2-((RS)-2-tetrahydropyranyloxy) ethyl }-2H-1,4-benzodiazepine-2-one and (3RS)-1,3-dihydro-5-phenyl-3-amino-1-{2-((SR)-2-tetrahydropyranyloxy) ethyl }-2H-1,4-benzodiazepine-2-one at ambient temperature under stirring. The mixture was stirred for 2 hours under the same conditions. The resultant precipitate was filtered off. The combined filtrate and washings were evaporated under reduced pressure and the residual oil (1.20 g) was subjected to column chromatography on silica gel with an eluent of a mixture of chloroform and ethyl acetate (10:1) to give a mixture (white powder, 0.45 g) of (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino)-5-phenyl-1-{2-((RS)-2-tetrahydropyranyloxy)ethyl}-2H-1,4-benzodiazepine-2-one and (3RS)-1,3-dihydro-3-(2 -indolylcarbonylamino )-5-phenyl-1-{2-((SR)-2-tetrahydropyranyloxy) ethyl}-2H-1,4-benzodiazepine-2-one.

reactant | indole-2-carboxylic acid | 0.19 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | N-hydroxybenzotriazole | 0.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 0.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (3RS)-1,3-dihydro-5-phenyl-3-amino-1-{2-((RS)-2-tetrahydropyranyloxy) ethyl }-2H-1,4-benzodiazepine-2-one | 0.43 g | C1(=CC=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CCOC2OCCCC2)=O)N | C22H25N3O3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino)-5-phenyl-1-{2-((RS)-2-tetrahydropyranyloxy)ethyl}-2H-1,4-benzodiazepine-2-one | 0.45 g | N1C(=CC2=CC=CC=C12)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCOC2OCCCC2)=O | C31H30N4O4
